US04343811
2-Methyl-2-[1,2-dimethyl-3-(4-pyridyl)-1H-indole-5-yloxy]-propanoic acid ethylester
In accordance with a procedure analogous to that of Example 10, the above compound was prepared from 1,2-dimethyl-3-(4-pyridyl)-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester.

reactant | 1,2-dimethyl-3-(4-pyridyl)-1H-indole-5-ol | CN1C(=C(C2=CC(=CC=C12)O)C1=CC=NC=C1)C | C15H14N2O
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-Methyl-2-[1,2-dimethyl-3-(4-pyridyl)-1H-indole-5-yloxy]-propanoic acid ethylester | C(C)OC(C(C)(OC=1C=C2C(=C(N(C2=CC1)C)C)C1=CC=NC=C1)C)=O | C21H24N2O3
